US08835472B2
N-[2-(5-Bromo-pyridin-2-yl)-ethyl]-acetamide
A mixture of 200 mg (1.00 mmol) 2-(5-bromopyridin-2-yl)ethanamine, 86.6 μL (1.09 mmol) pyridine and 2 mL DCM is charged with 103 μL (1.09 mmol) acetic anhydride and stirred at r.t. over night. The mixture is treated with saturated aq. NaHCO3 solution and extracted with DCM. The organic layer is dried with Na2SO4 and the solvent is evaporated in vacuo.

reactant | 2-(5-bromopyridin-2-yl)ethanamine | 1.00 mmol, 200 mg | BrC=1C=CC(=NC1)CCN | C7H9BrN2
reactant | pyridine | 1.09 mmol, 86.6 μL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.09 mmol, 103 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(5-Bromo-pyridin-2-yl)-ethyl]-acetamide | BrC=1C=CC(=NC1)CCNC(C)=O | C9H11BrN2O
